US04707550
1-Acetyl-3-[2-[4-(2-methoxyphenyl)piperazin-1-yl]ethyl]thieno[3,2-d]pyrimidine-2,4-dione
A solution of 3-[2-[4-(2-methoxyphenyl)piperazin-1-yl]ethyl]thieno[3,2-d]pyrimidine-2,4-dione (2.6 g, 6.73 mmol) in acetic anhydride (30 ml) was heated to reflux for 5 hours. Acetic anhydride was removed in vacuo. The residue was dissolved in toluene, and the toluene was removed in vacuo. This process was repeated twice to remove any residual acetic anhydride. The residue was purified by flash chromatography on silica gel 60 (60 g) using 2.5% methanol in methylene chloride as eluant to give the product (1.65 g, 57% yield) as an off-white solid, mp 156°-158° C.

reactant | 3-[2-[4-(2-methoxyphenyl)piperazin-1-yl]ethyl]thieno[3,2-d]pyrimidine-2,4-dione | 6.73 mmol, 2.6 g | COC1=C(C=CC=C1)N1CCN(CC1)CCN1C(NC2=C(C1=O)SC=C2)=O | C19H22N4O3S
reactant | acetic anhydride | 30 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1-Acetyl-3-[2-[4-(2-methoxyphenyl)piperazin-1-yl]ethyl]thieno[3,2-d]pyrimidine-2,4-dione | 1.65 g, 57% yield | C(C)(=O)N1C(N(C(C2=C1C=CS2)=O)CCN2CCN(CC2)C2=C(C=CC=C2)OC)=O | C21H24N4O4S
